********************************
* Copyright:                   *
* Vishay Intertechnology, Inc. *
********************************
BZX55C5V1			

* Technology:        DISCRETE DEVICE			
* Device:            Zener Diode BZX 55C 5V1			
* Type:              Typical (nom)			
* Model established: 12.11.1996, by S.Reuter, TM1iC63-HN			
* Wafer:			
* Remarks:           Macro model			
* Revision:			
* Simulator:         PSPICE			

.SUBCKT BZX5V1 a c			

 DF a c DFOR			
 DR c a DREV			
 DB b a DBRE			
 EB c b POLY(1) d 0 3.6 1
 IB 0 d 1m
 RB 0 d 1k TC=3m

.MODEL DFOR D
 + IS =   1p  RS =  3.5  N  =  1.4  CJO= 178p
 + VJ = 610m  M  = 335m  FC = 700m  XTI=    3
 + EG =1.186

.MODEL DREV D
 + IS = 100f  N  =   30  XTI=    3  EG =1.186

.MODEL DBRE D
 + IS =  10f  RS =    6  N  =    1  XTI=    0
 + EG =1.186

.ENDS BZX5V1			